US04639328
19 g of 2-[4-(trans-4-n-propylcyclohexyl)-styryl]-5-n-pentylthiophene (obtainable by Friedel Crafts acylation of 2-pentylthiophene with 4-(trans-4-n-propylcyclohexyl)-phenylacetyl chloride and reduction of the resulting ketone with sodium boranate to give the alcohol, followed by dehydration) and 5 g of sulfur are heated to 220° for 3 hours. Subsequent working-up by chromatography gives 8.3 g of 2-[4-trans-4-n-propylcyclohexylphenyl]-5-n-pentylthieno[3,2-b]thiophene.

reactant | 2-pentylthiophene | C(CCCC)C=1SC=CC1 | C9H14S
reactant | 4-(trans-4-n-propylcyclohexyl)-phenylacetyl chloride | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CC(=O)Cl | C17H23ClO
reactant | sodium boranate | B(=O)[O-].[Na+]
product | 2-[4-(trans-4-n-propylcyclohexyl)-styryl]-5-n-pentylthiophene | 19 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=CC=2SC(=CC2)CCCCC)C=C1 | C26H36S
